US06069256
A mixture of 2-nitromethylenethiazolidine (11.95 g) and acetonitrile (154 ml) was stirred and heated at 40° C. and then methylamine (31.7 ml of a 40% w/w aqueous solution) was added in one batch. A solution of 4-chloromethyl-2-dimethylaminomethylthiazole dihydrochloride (21.5 g) in water (21.5 ml) was added dropwise to the reaction mixture over 50 minutes. The mixture was then stirred for 2.5 hours and then the solvent was removed under reduced pressure to give an oil. The oil was dissolved in water (150 ml) and extracted with dichloromethane (3×150 ml). The combined extracts were dried and evaporated to give nizatidine (19.2 g, 70.6% yield). The crude material was 86.8% pure by HPLC.

reactant | 2-nitromethylenethiazolidine | 11.95 g | [N+](=O)([O-])C=C1SCCN1 | C4H6N2O2S
reactant | acetonitrile | 154 ml | C(C)#N | C2H3N
reactant | methylamine | CN | CH5N
reactant | 4-chloromethyl-2-dimethylaminomethylthiazole dihydrochloride | 21.5 g | Cl.Cl.ClCC=1N=C(SC1)CN(C)C
solvent | water | 21.5 ml | O | H2O
solvent | water | 150 ml | O | H2O
product | nizatidine | 19.2 g, 70.6% yield | CN/C(=C\[N+](=O)[O-])/NCCSCC1=CSC(=N1)CN(C)C | C12H21N5O2S2
